.options savecurrents




* supply voltage
Vcc 2 1 5.10081122772


* supply current
ID 6 5 DC 1.01322710556m


* Depedent Current Source
GB 5 4 (3,0) 7.10627754609m


*Voltage Source
Vd 7 8 0

* Depedent Voltage Source
HC 0 6 Vd 8.26237201768k

*Resistances 
R1 3 2 1.00330225563k
R2 4 3 2.09791449329k
R3 3 0 3.05015133481k
R4 1 0 4.03383088683k
R5 5 0 3.1055419384k
R6 1 7 2.07443162776k
R7 8 6 1.02510881122k

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op



echo "********************************************"
echo  "Operating point"
echo "********************************************"
echo  "op_TAB"

print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]


print all
echo  "op_END"


quit
.endc

.end
